US05977131
4-Amino-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-pentanoic acid methyl ester.
To a solution of 165 mg (0.595 mM) of 4-Nitro-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-pentanoic acid methyl ester in 15 mL of acetic add was added 450 mg (0.595 mM) of ammonium acetate and approximately 100 mg of Raney nickel. The mixture was hydrogenated at 50 psi for 12 hours. The mixture was filtered and the solvent evaporated. The residue was treated with an equal volume of ethyl acetate and saturated sodium bicarbonate. The ethyl acetate layer was dried and evaporated to yield 85 mg of product which was used in the next synthetic step without further purification. TLC: (10:1 CHCl3 : CH3OH) Rf=0.1 Mass Spectrum: m/e=248 (P+1).

reactant | 4-Nitro-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-pentanoic acid methyl ester | 0.595 mM, 165 mg | COC(CCC(CC1=CNC2=NC=CC=C21)[N+](=O)[O-])=O | C13H15N3O4
reactant | ammonium acetate | 0.595 mM, 450 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic | 15 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
catalyst | Raney nickel | approximately 100 mg | [Ni] | Ni
product | 4-Amino-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-pentanoic acid methyl ester | 85 mg | COC(CCC(CC1=CNC2=NC=CC=C21)N)=O | C13H17N3O2
